US05760035
Acetic anhydride (8.72 g) was added with stirring to a mixture of 4-aminomethyl-1-(2-phenoxyethyl)piperidine (20.0 g) in pyridine (85 ml) containing 4-dimethylaminopyridine (catalytic amount) with cooling to maintain ambient temperature. The mixture was stirred overnight at ambient temperature and then evaporated to dryness. Water was removed by adding toluene and removing the toluene by distillation. The residue was dissolved in water (100 ml) and 2M hydrochloric acid (50 ml). The solution was washed with dichloromethane, basified with concentrated sodium hydroxide solution and extracted with dichloromethane to give N-[1-(2-phenoxyethyl)piperid-4-ylmethyl]acetamide as an oil which solidified on standing, m.p. 79°-80° C.

reactant | Acetic anhydride | 8.72 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-aminomethyl-1-(2-phenoxyethyl)piperidine | 20.0 g | NCC1CCN(CC1)CCOC1=CC=CC=C1 | C14H22N2O
solvent | pyridine | 85 ml | N1=CC=CC=C1 | C5H5N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | N-[1-(2-phenoxyethyl)piperid-4-ylmethyl]acetamide | O(C1=CC=CC=C1)CCN1CCC(CC1)CNC(C)=O | C16H24N2O2
